Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Iodinated Contrast- Oral and IV Dye
 
Attending: ___
 
Chief Complaint:
Right  leg and arm weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Neurology Resident Stroke Admission Note 

Neurology at bedside for evaluation after code stroke activation
within: <5 minutes

Time/Date the patient was last known well: ___ at 16:00

Pre-stroke mRS ___ social history for description): 1

t-PA Administration
[] Yes - Time given:
[x] No - Reason t-PA was not administered: outside window,
systemic anticoagulation

Endovascular intervention: 
[]Yes - Time:
[x]No - Reason EVT was not performed: CTA deferred due to
anaphylactic contrast allergy, suggestion of subcortical rather
than large vessel-territory cortical pattern of ischemia

I was present during CT scanning and reviewed the images within
20 minutes of their completion.

___ Stroke Scale - Total [8]

1a. Level of Consciousness - 0
1b. LOC Questions - 0
1c. LOC Commands - 0
2. Best Gaze - 0
3. Visual Fields - 0
4. Facial Palsy - 1
5a. Motor arm, left - 0
5b. Motor arm, right - 3
6a. Motor leg, left - 1
6b. Motor leg, right - 3
7. Limb Ataxia - 0
8. Sensory - 0
9. Language - 0
10. Dysarthria - 0
11. Extinction and Neglect - 0

NIHSS was performed within 6 hours of patient presentation or
neurology consult at 12:35.

HPI: 
Mr. ___ is a ___ right-handed man with history notable
for CAD s/p CABG (___) c/b ITP, PAD s/p bilateral stenting,
paroxysmal atrial fibrillation (on warfarin), DMII
(diet-controlled) c/b neuropathy, HFpEF, COPD, HTN, HLD (with
prior statin intolerance due to myalgias), CKD III, carotid
stenosis s/p bilateral CEAs, OSA (not tolerating CPAP), and gout
presenting with acute-onset right leg > arm weakness.

Mr. ___ reports feeling "shaky" yesterday while walking back to
his bedroom around 16:00; he briefly steadied himself on the 
door
handle of his bedroom, but decided to retire to bed. He
subsequently fell out of bed and had difficulty "gaining
traction" to stand, ultimately requiring assistance from his
daughter. He remained in bed as a result for the remainder of 
the
day, and declined ED evaluation despite his family's
recommendations. This morning, around 11:00, his family also
noted the possibility of "slurred" speech, and noted that he
continued to have weakness in his right leg > arm, prompting EMS
activation and arrival at ___ for further evaluation.

Notably, Mr. ___ reports similar ___ weakness following
his CABG at ___ earlier this year. His subsequent course was
complicated by intermittent jerking movements of his right leg >
arm, which he also has noted today, which gradually resolved 
over
time and were ascribed to acute-on-chronic kidney disease per 
his
family. He does not recall being told that he had a stroke
following the procedure, though his wife notes that "an old
lesion" was noted on his interval head CTs. Of additional note,
Mr. ___ reports not missing recent doses of his warfarin, and
noted his INR to be 1.9 two days prior to presentation.

On review of systems, aside from the above, Mr. ___ and his
family deny recent headaches, dizziness, vision change,
dysarthria, dysphagia, paresthesiae, bowel or bladder
incontinence, fevers, chills, nausea, vomiting, chest 
discomfort,
abdominal pain, or changes in bowel or bladder habits.

 
Past Medical History:
COPD 
Hypertension
Diabetes mellitus type 2 -diet controlled
CAD s/p CABG ___ c/b ITP
Parosyxmal afib on warfarin
T2DM (diet controlled) c/b neuropathy
Hyperlipidemia (with prior statin intolerance due to myalgias)
HFpEF
PAD s/p ___ stenting 
Carotid stenosis s/p CEA
Gout
Obesity-couldn't tolerate recommended OSA mask d/t 
claustrophobia
Anxiety
Chronic low back pain
Cataracts w/chronic L blurry vision
Dyslipidemia-can only tolerate statin MWF d/t myalgias
CKD stage III (creat 1.9 OSH)
Hip arthritis
Neuropathy B feet
Insomnia
___ esophagus/GERD
Constipation
Bilat CEA

 
Social History:
Previously employed in ___, but stopped working due to
PAD. Reports remote tobacco use (reporting PPD ___ years, prior
records noting 2 PPD ___ years), quit ___ years ago. Also notes
remote daily alcohol use, also quit ___ years ago. denies
recreational drug use.

- Modified Rankin Scale:
[] 0: No symptoms
[x] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Dad-CABG ___ & d.___. Mom-d. ___,heart disease. 2 sisters-1 
w/recently deceased, lung CA, 1 w/asthma. 2 step kids-A&W

No history of neurologic disorders.
 
Physical Exam:
On Admission:
=============
Vitals: T: 97.1  HR: 62  BP: 200/60  RR: 20  SpO2: 96% RA
General: NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: warm, well-perfused
Pulmonary: no tachypnea or increased WOB
Abdomen: soft, ND
Extremities: warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to hospital and time.
Mildly inattentive, able to name ___ but not months of year.
Speech is fluent with intact repetition, comprehension, and
naming intact. No dysarthria. No evidence of hemineglect. Able 
to
follow both midline and appendicular commands.

- Cranial Nerves: PERRL (3 to 2 mm ___. VF full to number
counting. EOMI (though some difficulty burying sclera on left),
no nystagmus. V1-V3 without deficits to light touch bilaterally.
Slight R NLFF. Hearing intact to conversation. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor: Mild asterixis bilaterally.
  [Delt][Bic][Tri][ECR][FEx][IP] [___]
L   4+    5    5    5    5   4+*   5   5    5
R   4     5    4+   5    5   3     5-  5    5  
 
- Reflexes: +pectoral jerks bilaterally
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3+    3+     3+      2+       1+
 R  2+    3+     3+      2+       1+ 

- Sensory: No deficits to light touch or pinprick bilaterally. 
No extinction to DSS. Graphesthesia intact bilaterally.

- Coordination: No dysmetria with finger-to-nose testing on 
left;
very subtle action tremor on right, not clearly out of 
proportion
to weakness.

- Gait: Deferred.

At Discharge:
==============
24 HR Data (last updated ___ @ 1153)
Temp: 97.8 (Tm 98.7), BP: 154/66 (142-173/56-79), HR: 48 
(45-50), RR: 22 (___), O2 sat: 96% (92-98)  

General: NAD, well groomed
___: well-perfused
Pulmonary: no tachypnea or increased WOB
Extremities:  no edema

Neurologic Examination:
- Mental status: Awake, oriented x4. Speech is fluent with No
dysarthria. Naming and repetition intact. No evidence of 
hemineglect. Able to follow both midline and appendicular 
commands.

- CN: PERRL (3 to 2 mm ___. VF full to number
counting. EOMI (though some difficulty burying sclera on left),
no nystagmus. V1-V3 without deficits to light touch bilaterally.
Slight R NLFF. Hearing intact to conversation. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor: Mild asterixis bilaterally.
  [Delt][Bic][Tri][ECR][FEx][IP] [___]
L   5    5     5    5    5   5    5   5    5
R   5    5     5    5    5   4+   5   5    5  
 
- Reflexes: +pectoral jerks bilaterally
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3+    3+     3+      2+       1+
 R  3+    3+     3+      2+       1+ 

- Sensory: No deficits to light touch or pinprick bilaterally. 
No extinction to DSS. Graphesthesia intact bilaterally.

- Coordination: No dysmetria with finger-to-nose testing on 
left;
very subtle action tremor on right, not clearly out of 
proportion
to weakness.

- Gait: slow, unsteady gait

 
Pertinent Results:
___ 06:10AM BLOOD WBC-9.9 RBC-3.71* Hgb-10.4* Hct-32.6* 
MCV-88 MCH-28.0 MCHC-31.9* RDW-17.0* RDWSD-54.5* Plt ___
___ 06:10AM BLOOD ___ PTT-35.9 ___
___ 06:10AM BLOOD Glucose-94 UreaN-109* Creat-2.4* Na-141 
K-3.9 Cl-97 HCO3-26 AnGap-18
___ 12:37PM BLOOD ALT-9 AST-43* AlkPhos-82 TotBili-0.2
___ 12:37PM BLOOD cTropnT-0.01
___ 06:10AM BLOOD Calcium-9.1 Phos-5.6* Mg-2.3
___ 12:37PM BLOOD %HbA1c-5.2 eAG-103
___ 06:10AM BLOOD Triglyc-91 HDL-44 CHOL/HD-5.0 
LDLcalc-156*
___ 12:37PM BLOOD TSH-2.9
___ 12:37PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING:
==========
MRI BRAIN: 
There are 2 small foci of slow diffusion in the subcortical left 
parietal lobe 
medially with subtle corresponding hypointensities on the ADC 
map and FLAIR 
images. 
  
There is no evidence of hemorrhage.  There is a chronic 
infarction in the left 
caudate body and adjacent corona radiata.  The ventricles and 
sulci are 
age-appropriate in size and configuration without mass effect or 
midline 
shift. 
  
Scattered T2 and FLAIR hyperintense foci in the periventricular 
and 
subcortical white matter are nonspecific, but may reflect 
chronic small vessel 
ischemic changes. 
  
There is mild mucosal thickening of the ethmoid and right 
maxillary sinuses.  
The mastoid air cells are clear.  Postsurgical changes of right 
lens 
replacement. 
  
MRA BRAIN: 
There is mild signal and luminal irregularity involving the 
parasellar 
internal carotid arteries and right greater than left M1 
segments.  There is 
also mild signal in luminal irregularity of the bilateral P1 and 
left greater 
than right P2 segments.  Findings likely relate to 
atherosclerotic disease.  
Otherwise, the intracranial vertebral and internal carotid 
arteries 
demonstrate flow signal without evidence of focal stenosis or 
aneurysm 
formation. 
  
MRA NECK: 
 Examination is mildly degraded by motion.  The aortic arch and 
great vessel origins are not included.  The common, internal and 
external carotid arteries 
demonstrate flow signal with no evidence of occlusion.  There is 
no evidence 
of internal carotid artery stenosis by NASCET criteria. 
  
IMPRESSION:   
1. Small foci acute infarction in the subcortical left parietal 
lobe medially. 
2. Chronic infarction in the left caudate body and adjacent 
corona radiata. 
3. Diffuse intracranial atherosclerotic disease. 
4. Grossly patent neck vasculature to the extent visualized with 
no evidence of occlusion. 

 
Brief Hospital Course:
___ right-handed man with history notable for CAD s/p 
CABG (___) c/b ITP, PAD s/p bilateral stenting, paroxysmal 
atrial fibrillation (on warfarin), DMII
(diet-controlled) c/b neuropathy, HFpEF, COPD, HTN, HLD (with 
prior statin intolerance due to myalgias), CKD III, carotid 
stenosis s/p bilateral CEAs, OSA (not tolerating CPAP), and gout 
presenting with acute-onset right leg > arm weakness. MRI showed 
more likely recrudescence of previous left periventricular/deep 
infarct. MRA did not show definitive fixed or unstable disease 
in this region. Although MRI read also suggested an  acute 
punctate infarct in the subcortical left parietal lobe, upon 
further review there was no ADC correlate and we do not believe 
this represents an acute infarct.  He was also noted to have 
prominent action myoclonus, which had been documented before, 
and had been treated with clonazepam but led to sedation. We 
started 250mg BID of keppra which led to almost immediate 
improvement in his symptoms. He did have several more episodes 
of right hemiparesis, which lasted briefly and did not reveal an 
upper motor neuron weakness. Likely recrudescence, though no 
infectious or toxic source was identified. He did suffer the 
passing of a sister. He did acknowledge significant anxiety. Of 
note, despite the team and ___ recommendations, the patient 
indicated his desire to be discharged home. He understood the 
risks and benefits and ultimately chose to be discharged home 
with services.

===========================
Transitional issues:
[ ]follow up with neurology
- ___ started for action myoclonus
[ ] Follow up with PCP for management of HTN, HLD, DM, and 
Coumadin management
- Monitor mood on Keppra and in setting of recent life stressor 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 200 mcg PO DAILY 
2. Pravastatin 20 mg PO QPM 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Torsemide 40 mg PO BID 
5. Warfarin 4 mg PO DAILY16 
6. Allopurinol ___ mg PO DAILY 
7. amLODIPine 10 mg PO DAILY 
8. Clopidogrel 75 mg PO DAILY 
9. Doxazosin 4 mg PO HS 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Gabapentin 300 mg PO QHS 
12. HydrALAZINE 75 mg PO TID 
13. Isosorbide Mononitrate 40 mg PO TID 

 
Discharge Medications:
1.  LevETIRAcetam 250 mg PO Q12H 
RX *levetiracetam 250 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*3 
2.  Allopurinol ___ mg PO DAILY  
3.  amLODIPine 10 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Doxazosin 4 mg PO HS  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Gabapentin 300 mg PO QHS  
8.  HydrALAZINE 75 mg PO TID  
9.  Isosorbide Mononitrate 40 mg PO TID  
10.  Levothyroxine Sodium 200 mcg PO DAILY  
11.  Pravastatin 20 mg PO QPM  
12.  Tiotropium Bromide 1 CAP IH DAILY  
13.  Torsemide 40 mg PO BID  
14.  Warfarin 4 mg PO DAILY16  
15.bedside commode
Dx: right hemiparesis, chronic illness
Px: good
Duration: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right hemiparesis

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Lethargic but arousable.
Mental Status: Confused - sometimes.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to neurology for acute right lower extremity 
weakness. MRI shows that you did not have a new stroke. You were 
noted to have jerking movements with movement (action myoclonus) 
and you were started on Keppra with resolution of symptoms. 

We are changing your medications as follows:  
- Start taking Keppra 250 mg twice a day

Please remember to weigh yourself every morning, call MD if 
weight goes up more than 3 lbs.

Please take your other medications as prescribed.
  
Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___